US05162533
3-Cyano-2-(3-hydroxy-propylamino)-5,4'-bipyridine-1'-oxide hydrate
The procedure of Example 7 is followed to react and work up 5 g 2-chloro-3-cyano-5,4'-bipyridine-1'-oxide and 8 ml 3-amino-propan-1-ol. The product is recrystallized from ethanol/water. Yield: 4.87 g (78.4% of the theoretical yield), with a melting point of 141° C.-143° C.

reactant | 2-chloro-3-cyano-5,4'-bipyridine-1'-oxide | 5 g | ClC1=NC=C(C=C1C#N)C1=CC=[N+](C=C1)[O-] | C11H6ClN3O
reactant | 3-amino-propan-1-ol | 8 ml | NCCCO | C3H9NO
product | 3-Cyano-2-(3-hydroxy-propylamino)-5,4'-bipyridine-1'-oxide hydrate | O.C(#N)C=1C(=NC=C(C1)C1=CC=[N+](C=C1)[O-])NCCCO | InChI=1S/C14H14N4O2.H2O/c15-9-12-8-13(11-2-5-18(20)6-3-11)10-17-14(12)16-4-1-7-19;/h2-3,5-6,8,10,19H,1,4,7H2,(H,16,17);1H2
